Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:3],3.89891841809
[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:9].[O:1]=[C:2]1[C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:10]1([H:11])[H:12],4.21314361629
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1],3.85510230461
[H:1][C:2]=[C:3]([H:4])[C@:5]1([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])/[C:9](=[C:7](/[C:5]([H:6])=[C:11]([H:12])[H:13])[H:8])[H:10],-0.610956893591
[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[O:14]1>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[O:14],3.51794694
[C:3]=[C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11],-9.12411008288
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.0890803593400005
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:1]([H:6])([H:7])[C:8]#[C:9][H:10].[C:2]([H:3])([H:4])=[C:5],0.60040517393
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:4],2.48317345659
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.5824994202800005
[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:2](=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14])\[C:15]([H:16])([H:17])[H:18].[H:1][C:3]([C:4]([H:5])([H:6])[H:7])[H:10],4.34753204887
[H:1][C:2][O:3][C:4][O:5][C:6]#[C:7][H:8].[H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]=[C:7]([H:8])[H:9],-2.5147024995800003
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],3.15587377217
[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.69233347813
[C:8]([H:9])#[C:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],-1.2162076111
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][O:9][H:10].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],-3.24513934412
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([O:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7](=[O:8])[H:9].[H:10],0.445832344045
[H:1].[O:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.547744213730001
[H:4].[O:1]=[C:2]([C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.73015885484
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.49396205608
[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7][O:8][H:9]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],-3.47571059632
[C:4]([H:6])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:5][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.94187269377
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[O:4]=[C:5]([H:6])[H:7],1.4331812144299998
[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.16763064498
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5],4.75155101075
[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]=[C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-4.16472141804
[C:1]=[O:2].[C:3]([H:4])=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.1587006295
[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-2.47123663474
